US07253162B2
N-{4-[(5,5-Dioxido-2,3,3a,4-tetrahydro-1H-pyrrolo[2,1-c][1,2,4]-benzothiadiazin-7-yl)oxy]benzyl}-N-methylmethanesulphonamide
A suspension composed of 5.74 mg (3.37 mmol) of 2,3,3a,4-tetrahydro-1H-pyrrolo[2,1-c]-[1,2,4]benzothiadiazin-7-ol 5,5-dioxide, 926 mg (4.04 mmol) of (4-{[methyl(methylsulphonyl) amino]methyl}phenyl)boronic acid, 920 mg (5.06 mmol), of copper(II) acetate, 817 μl (10.10 mmol) of pyridine and about 4 g of 4 Å molecular sieve in 50 ml of CH2Cl2 is stirred overnight. The reaction mixture is filtered, rinsing with CH2Cl2/MeOH (1/1). The filtrate is concentrated and then directly placed on a silica column which is eluted with a CH2Cl2/MeOH 95/5 system. The fractions containing the expected product are combined and evaporated, and the residue is taken up in ethyl ether. After filtering off the solid, the title product is recovered in the form of white powder.

reactant | 2,3,3a,4-tetrahydro-1H-pyrrolo[2,1-c]-[1,2,4]benzothiadiazin-7-ol 5,5-dioxide | 3.37 mmol, 5.74 mg | C1CCC2NS(C3=C(N21)C=CC(=C3)O)(=O)=O | C10H12N2O3S
reactant | (4-{[methyl(methylsulphonyl) amino]methyl}phenyl)boronic acid | 4.04 mmol, 926 mg | CN(S(=O)(=O)C)CC1=CC=C(C=C1)B(O)O | C9H14BNO4S
reactant | pyridine | 10.10 mmol, 817 μl | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | copper(II) acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | N-{4-[(5,5-Dioxido-2,3,3a,4-tetrahydro-1H-pyrrolo[2,1-c][1,2,4]-benzothiadiazin-7-yl)oxy]benzyl}-N-methylmethanesulphonamide | O=S1(NC2N(C3=C1C=C(C=C3)OC3=CC=C(CN(S(=O)(=O)C)C)C=C3)CCC2)=O | C19H23N3O5S2
